US05972975
4-Methyl-2-(2,5-dimethylpyrrol-1-yl)-6-(4-(2,5-dimethylpyrrol-1-yl)butyl)pyridine (429 mg, 1.28 mmol) was dissolved in 6.5 mL of 95% ethanol and 2.5 mL of water was added followed by 818 mg (11.8 mmol) of hydroxylamine hydrochloride and 450 mg (6.96 mmol) of 87% potassium hydroxide. The mixture was heated in a 100° C. oil bath for 18 h. After cooling the reaction to room temperature, most of the ethanol was removed on a rotary evaporator. The residue was partitioned between 10 mL of 2 N aqueous hydrochloric acid and 20 mL of ethyl ether. The aqueous layer was made strongly basic by the addition of solid 87% potassium hydroxide and then extracted with 3×20 mL of ethyl ether. The combined ethyl ether extracts were dried over potassium hydroxide and sodium sulfate, decanted, and evaporated. The residue was purified by flash column chromatography on 6 g of silica gel eluting with 100 mL of 1% ammonium hydroxide and 7% methanol in dichloromethane followed by 100 mL of 2% ammonium hydroxide and 10% methanol in dichloromethane to give 172 mg (75% yield) of 2-amino-6-(4-aminobutyl)-4-methylpyridine as a light amber oil.

reactant | 4-Methyl-2-(2,5-dimethylpyrrol-1-yl)-6-(4-(2,5-dimethylpyrrol-1-yl)butyl)pyridine | 1.28 mmol, 429 mg | CC1=CC(=NC(=C1)CCCCN1C(=CC=C1C)C)N1C(=CC=C1C)C | C22H29N3
reactant | water | 2.5 mL | O | H2O
reactant | hydroxylamine hydrochloride | 11.8 mmol, 818 mg | Cl.NO
reactant | potassium hydroxide | 6.96 mmol, 450 mg | [OH-].[K+]
solvent | ethanol | 6.5 mL | C(C)O | C2H6O
product | 2-amino-6-(4-aminobutyl)-4-methylpyridine | 172 mg, 75% yield | NC1=NC(=CC(=C1)C)CCCCN | C10H17N3
